US07572820B2
4-Chloro-2-(difluoromethyl)-1-{[5-(trifluoromethyl)-2-furanyl]methyl}-1H-indole-5-carbonitrile
Synthesized as described in Example 39 from 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile and 2-(bromomethyl)-5-(trifluoromethyl)furan: MS (ESI) m/z 375 (M+1).

reactant | 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)C(F)F | C10H5ClF2N2
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | 4-Chloro-2-(difluoromethyl)-1-{[5-(trifluoromethyl)-2-furanyl]methyl}-1H-indole-5-carbonitrile | ClC1=C2C=C(N(C2=CC=C1C#N)CC=1OC(=CC1)C(F)(F)F)C(F)F | C16H8ClF5N2O
